US09428483B2
To a solution of cyclooctanol (1.79 g) in chloroform (40 mL), pyridine (1.13 mL) was added, and then the reaction solution was cooled to −60° C. To the reaction solution, 1-chloroethyl carbonochloridate (1.53 mL) was added at the same temperature over 10 minutes. The reaction solution was thereafter heated to room temperature and stirred at the same temperature for 3 hours. Chloroform was added to the reaction solution and the organic layer was washed three times with brine and then dried over magnesium sulfate. The insoluble was filtered and the filtrate was concentrated under reduced pressure to give 1-chloroethyl cyclooctyl carbonate (A-11-1, 3.70 g) as a colorless oil.

reactant | cyclooctanol | 1.79 g | C1(CCCCCCC1)O | C8H16O
reactant | 1-chloroethyl carbonochloridate | 1.53 mL | C(OC(C)Cl)(=O)Cl | C3H4Cl2O2
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 1.13 mL | N1=CC=CC=C1 | C5H5N
product | 1-chloroethyl cyclooctyl carbonate | 3.70 g | C(OC(C)Cl)(OC1CCCCCCC1)=O | C11H19ClO3
